US09447106B2
To a solution of diethyl 2,2-bis(hydroxymethyl)malonate (4.4 g, 20 mmol) in CH3CN (50 mL) was added Tf2O (7.1 mL, 11.85 g, 42 mmol) at −20° C., followed by two batches of DIEA (6.45 g, 50 mmol). After 0.5 hr, benzylamine (3.21 g, 35 mmol) was added at −20° C. The mixture was stirred at 70° C. for 2 hr. 100 mL of EA and 100 mL of brine were added. Organic layers were dried over Na2SO4. Purified by chromatography column on silica gel eluting with PE/EA to afford 4.8 g (82%) of diethyl 1-benzylazetidine-3,3-dicarboxylate as a yellow oil. 1H NMR (400 MHz, DMSO-d6) δ 7.29-7.34 (m, 2H), 7.22-7.27 (m, 3H), 4.17 (q, J=7.2 Hz, 4H), 3.56 (s, 2H), 3.51 (s, 4H), 2.39 (s, 3H) and 1.17 (t, J=7.2 Hz, 6H).

reactant | diethyl 2,2-bis(hydroxymethyl)malonate | 20 mmol, 4.4 g | OCC(C(=O)OCC)(C(=O)OCC)CO | C9H16O6
reactant | Tf2O | 42 mmol, 7.1 mL, 11.85 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | DIEA | 50 mmol, 6.45 g | CCN(C(C)C)C(C)C | C8H19N
reactant | benzylamine | 35 mmol, 3.21 g | C(C1=CC=CC=C1)N | C7H9N
solvent | CH3CN | 50 mL | CC#N | C2H3N
solvent | brine | 100 mL | [Cl-].[Na+].O
solvent | EA | 100 mL | CC(OCC)=O | C4H8O2
product | diethyl 1-benzylazetidine-3,3-dicarboxylate | 4.8 g, 82% | C(C1=CC=CC=C1)N1CC(C1)(C(=O)OCC)C(=O)OCC | C16H21NO4
